US07365085B2
N-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-acetamide hydrochloride salt
To 3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethylamino]-propoxy}-phenylamine (80.0 mg, 0.15 mmol) dissolved in anhydrous dichloromethane (1 mL) was added pyridine (18 uL, 0.22 mmol) and acetyl chloride (12.7 uL, 0.18 mmol) at room temperature. The reaction was maintained for 60 hours after which the solvent was removed under reduced pressure. The residue was purified by preparative HPLC (YMC CombiPrep ODS-A, 50×20 mm, 20 mL/min, A: acetonitrile B: water, A: 5 to 95% over 15 min, UV detection at 214 nm and 254 nm) and the resulting residue after solvent removal was treated with aqueous 6N HCl (0.5 mL) and acetonitrile (2 mL). The solvent was removed under reduced pressure to give 41.4 mg (0.07 mmol, 47%) of the title compound as a colorless oil. MS (ESI) 581.0

reactant | 3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethylamino]-propoxy}-phenylamine | 0.15 mmol, 80.0 mg | ClC1=C(CN(CCCOC=2C=C(C=CC2)N)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C31H30ClF3N2O
reactant | pyridine | 0.22 mmol, 18 uL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.18 mmol, 12.7 uL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-acetamide hydrochloride salt | 0.07 mmol, 41.4 mg, 47% | Cl.ClC1=C(CN(CCCOC=2C=C(C=CC2)NC(C)=O)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C33H32ClF3N2O2.ClH/c1-24(40)38-28-16-9-17-29(21-28)41-20-10-19-39(22-27-15-8-18-31(32(27)34)33(35,36)37)23-30(25-11-4-2-5-12-25)26-13-6-3-7-14-26;/h2-9,11-18,21,30H,10,19-20,22-23H2,1H3,(H,38,40);1H
